US06048994
312 mg Of styrene and 312 mg of dimethylethoxysilane were placed in a glass reaction tube and 0.006 ml of acetic acid was added. Then, 0.001 ml of a toluene solution of a 0-valent platinum complex of divinyltetramethyldisiloxane (platinum content: 0.4 Wt. %) was added to this mixture. The reaction tube was sealed with Teflon tape and heated for 30 minutes in an oil bath at 41° C. When the tube contents were analyzed by GC-MS following cooling, the conversion rate of styrene was 80% and phenethyldimethylethoxysilane was produced at a yield of 74.5%. The yield of (α-methylbenzyl) dimethylethoxysilane was 5.5%

reactant | styrene | 312 mg | C=CC1=CC=CC=C1 | C8H8
reactant | dimethylethoxysilane | 312 mg | C[SiH](OCC)C | C4H12OSi
reactant | acetic acid | 0.006 ml | C(C)(=O)O | C2H4O2
reactant | divinyltetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
solvent | toluene | 0.001 ml | C1(=CC=CC=C1)C | C7H8
product | phenethyldimethylethoxysilane | yield of 74.5% | C(CC1=CC=CC=C1)[Si](OCC)(C)C | C12H20OSi
